US04308343
Synthesis of 3-{3-[2-(2,4-Di-tert-amylphenoxy)butyramido]-benzamido}-5-butanoyloxy-1-(2,4,6-trichlorophenyl)-4-(1-pyrazolyl)-1H-pyrazole [Coupler (5)]
30.6 g of 3-{3-[2-(2,4-di-tert-amylphenoxy)butyramido]benzamido}-1-(2,4,6-trichlorophenyl)-4-(1-pyrazolyl)-5-oxo-2-pyrazoline (prepared by the method described in German Patent Application (OLS) No. 2,536,191) was dissolved in 100 ml of tetrahydrofuran and 5 g of triethylamine was added. To the solution, a solution containing 3.5 g of butanoyloxy chloride dissolved in 10 ml of tetrahydrofuran was dropwise added. After the addition of the solution, the mixture was stirred for 1 hour. 500 ml of ethyl acetate was added to the reaction mixture and washed several times with water. The oil layer was dried with anhydrous sodium sulfate and concentrated. Upon crystallization of the residue from acetonitrile, 24 g of Coupler (5) was obtained. The melting point of the coupler was 63° to 68° C.

reactant | 3-{3-[2-(2,4-di-tert-amylphenoxy)butyramido]benzamido}-1-(2,4,6-trichlorophenyl)-4-(1-pyrazolyl)-5-oxo-2-pyrazoline | 30.6 g | C(C)(C)(CC)C1=C(OC(C(=O)NC=2C=C(C(=O)NC3=NN(C(C3N3N=CC=C3)=O)C3=C(C=C(C=C3Cl)Cl)Cl)C=CC2)CC)C=CC(=C1)C(C)(C)CC | C39H43Cl3N6O4
reactant | triethylamine | 5 g | C(C)N(CC)CC | C6H15N
reactant | butanoyloxy chloride | 3.5 g | C(CCC)(=O)OCl | C4H7ClO2
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-{3-[2-(2,4-Di-tert-amylphenoxy)butyramido]-benzamido}-5-butanoyloxy-1-(2,4,6-trichlorophenyl)-4-(1-pyrazolyl)-1H-pyrazole | C(C)(C)(CC)C1=C(OC(C(=O)NC=2C=C(C(=O)NC3=NN(C(=C3N3N=CC=C3)OC(CCC)=O)C3=C(C=C(C=C3Cl)Cl)Cl)C=CC2)CC)C=CC(=C1)C(C)(C)CC | C43H49Cl3N6O5
